US08563575B2
A solution of oxazolo[4,5-b]pyridin-2(3H)-one (200 mg) in DMF (3.5 mL) was treated with a 60% dispersion of sodium hydride in mineral oil (62 mg) and the resulting mixture stirred at ambient temperature for 5 min. The mixture was treated with 1-fluoro-4-nitrobenzene (248 mg) then stirred at 100° C. for 17 h. After this time, the reaction mixture was cooled to ambient temperature, diluted with ethyl acetate (100 ml), washed with water (2×50 ml), 5% aqueous lithium chloride (50 ml) then brine (50 mL), dried over sodium sulfate, and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, heptane to 1:1 ethyl acetate/heptane) to afford 3-(4-nitrophenyl)[1,3]oxazolo[4,5-b]pyridin-2(3H)-one (73 mg) as a yellow solid.

reactant | oxazolo[4,5-b]pyridin-2(3H)-one | 200 mg | O1C(NC2=NC=CC=C21)=O | C6H4N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-fluoro-4-nitrobenzene | 248 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | DMF | 3.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-nitrophenyl)[1,3]oxazolo[4,5-b]pyridin-2(3H)-one | 73 mg | [N+](=O)([O-])C1=CC=C(C=C1)N1C(OC=2C1=NC=CC2)=O | C12H7N3O4
